US07947851B2
Step b) Formation of 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-phenylpropyl)amino]-2-hydroxybenzoic acid, hydrochloride salt
To a solution of 6-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-phenylpropyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one (147 mg, 0.26 mmol) in MeOH/THF (9 ml, (2/1)) was added an aqueous solution of NaOH (0.3 mL, 5N). The reaction mixture was stirred at rt for 48 hrs. Then a solution of HCl in MeOH (2.5 mL, 1.25M) was added and the solvents were 5 removed under reduced pressure. The residue was taken up with water (5 mL), extracted with Et2O (2×5 mL) and the combined organic layers were dried over Na2SO4. The solvent was removed under reduced pressure. The residue was dissolved in a solution of HCl in Et2O (2 mL, 1N). Evaporation of the solvent gave 60 mg (32%) of the title compound as a brown foam. HPLC, Rt: 4.8 min (purity: 78.1%). LC/MS, M+(ESI): 518.4, M−(ESI): 516.3.

reactant | 6-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-phenylpropyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 0.26 mmol, 147 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC3=C(OC(OC3=O)(C)C)C=C2)CCCC2=CC=CC=C2)C=C1 | C38H39NO3
reactant | NaOH | 5N, 0.3 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH THF | 9 ml | CO.C1CCOC1
solvent | MeOH | 1.25M, 2.5 mL | CO | CH4O
product | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-phenylpropyl)amino]-2-hydroxybenzoic acid, hydrochloride salt | 60 mg, 32% | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)CCCC2=CC=CC=C2)C=C1 | InChI=1S/C35H35NO3.ClH/c1-2-3-8-28-12-14-29(15-13-28)16-17-30-18-20-31(21-19-30)26-36(24-7-11-27-9-5-4-6-10-27)32-22-23-34(37)33(25-32)35(38)39;/h4-6,9-10,12-15,18-23,25,37H,2-3,7-8,11,24,26H2,1H3,(H,38,39);1H
